US06977262B2
Ethyl 4-(2-chlorophenyl)-6-ethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from 2-chlorobenzaldehyde, 3-aminopyrazole and ethyl 3-ketopentanoate in the same manner as in Example 1.

reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | ethyl 3-ketopentanoate | O=C(CC(=O)OCC)CC | C7H12O3
product | Ethyl 4-(2-chlorophenyl)-6-ethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | ClC1=C(C=CC=C1)C1C=2C(NC(=C1C(=O)OCC)CC)=NNC2 | C17H18ClN3O2
